US08703758B2
D) trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexanol
A solution of a solution (1.0 M, 2.72 mL) of 2-(trans-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)-6-(cyclopropylmethoxy)-1,3-benzoxazole (714 mg) and tetrabutylammonium fluoride in THF in THF (5 mL) was stirred at room temperature overnight and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (311 mg).

reactant | 2-(trans-4-{[tert-butyl(diphenyl)silyl]oxy}cyclohexyl)-6-(cyclopropylmethoxy)-1,3-benzoxazole | 1.0 M, 2.72 mL, 714 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2 | C33H39NO3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexanol | 311 mg | C1(CC1)COC1=CC2=C(N=C(O2)[C@@H]2CC[C@H](CC2)O)C=C1 | C17H21NO3
